US03956310
11.1 Parts of 7,14-diazadispiro[5.1.5.2]pentadecan-15-one, 8.50 parts of 1-naphthyl isocyanate and a trace of 1,4-diazabicyclo[2.2.2]octane in 125 parts of dry toluene were heated at reflux for 24 hours. After removal of the toluene by distillation under reduced pressure the residue was twice recrystallised from benzene to give 7.0 parts of 14-naphthylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one having a melting point of 157° to 160°C and the following elemental analysis by weight:

reactant | 7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C1CCCCC12NC1(CCCCC1)NC2=O | C13H22N2O
reactant | 1-naphthyl isocyanate | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
reactant | 1,4-diazabicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 14-naphthylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C1(=CC=CC2=CC=CC=C12)NC(=O)N1C2(NC3(CCCCC3)C1=O)CCCCC2 | C24H29N3O2
